US07259183B2
Preparation of 4-(1-methoxycyclopropyl)-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 1-bromo-4-(1-methoxycyclopropyl)-benzene (250 mg, 1.10 mmol), n-BuLi (722 μl, 1.6M solution in hexane, 1.16 mmol) and DMF (171 μl, 2.20 mmol). The isolated residue was purified by flash column chromatography (1:9 ether:pentane) to give 4-(1-methoxycyclopropyl)-benzaldehyde (90 mg, 58%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 10.0 (s, 1H), 7.79 (d, J=8.5 Hz, 2H), 7.37 (d, J=8.5 Hz, 2H), 3.29 (s, 3H), 1.35-1.30 (m, 2H), 1.09-1.05 (m, 2H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 1-bromo-4-(1-methoxycyclopropyl)-benzene | 1.10 mmol, 250 mg | BrC1=CC=C(C=C1)C1(CC1)OC | C10H11BrO
reactant | n-BuLi | 1.16 mmol, 1.6M, 722 μl | [Li]CCCC
reactant | DMF | 2.20 mmol, 171 μl | CN(C)C=O | C3H7NO
product | 4-(1-methoxycyclopropyl)-benzaldehyde | 90 mg, 58% | COC1(CC1)C1=CC=C(C=O)C=C1 | C11H12O2
